US07622500B2
2,3-Dihydro-1-benzofuran-2-carboxylic acid
A mixture of 1-benzofuran-2-carboxylic acid (40.0 g, 250.0 mmol) and palladium hydroxide (20 wt. % on carbon, 2.0 g) in acetic acid (400 ml) was heated at 60° C. under a hydrogen atmosphere (80 psi) for 2 h. The mixture was filtered to give a solution of the title compound (39.5 g) in acetic acid.

reactant | 1-benzofuran-2-carboxylic acid | 250.0 mmol, 40.0 g | O1C(=CC2=C1C=CC=C2)C(=O)O | C9H6O3
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
catalyst | palladium hydroxide | 2.0 g | [OH-].[Pd+2].[OH-]
product | 2,3-Dihydro-1-benzofuran-2-carboxylic acid | 39.5 g | O1C(CC2=C1C=CC=C2)C(=O)O | C9H8O3
